US05284555
Synthesis of trioctylphosphine and TOPO
Work up yielded trioctylphosphine oxide, a colourless solid FP 47.0° C., 365 g--75% yield on the octene used.

reactant | trioctylphosphine oxide | C(CCCCCCC)P(CCCCCCCC)(CCCCCCCC)=O | C24H51OP
reactant | octene | C=CCCCCCC | C8H16
product | trioctylphosphine | C(CCCCCCC)P(CCCCCCCC)CCCCCCCC | C24H51P
